US04745201
By following the procedure employed in Preparation 1, E. and F., 3,3-(ethylenedioxy)glutaric acid mono benzyl ester prepared as described above in step A. (2.937 g, 10.48 mmole) was converted to the corresponding acid chloride with oxalyl chloride (3.0 ml, 34.39 mmole) in 30 ml of benzene. The acid chloride was reduced with bis(triphenylphosphine) copper (I) tetrahydroborate (6.32 g, 10.48 mmole) and triphenylphosphine (5.5 g, 20.97 mmole) in 50 ml of acetone. There was obtained 1.930 g, 70% yield of benzyl 3,3-(ethylenedioxy)-4-formylbutyrate, as a colorless syrup.

reactant | 3,3-(ethylenedioxy)glutaric acid mono benzyl ester | C(C1=CC=CC=C1)OC(CC1(CC(=O)O)OCCO1)=O | C14H16O6
reactant | oxalyl chloride | 34.39 mmole, 3.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triphenylphosphine | 20.97 mmole, 5.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | acetone | 50 ml | CC(=O)C | C3H6O
catalyst | bis(triphenylphosphine) copper (I) tetrahydroborate | 10.48 mmole, 6.32 g | [BH4-].[Cu+].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | benzyl 3,3-(ethylenedioxy)-4-formylbutyrate | 1.930 g, 70% yield | C1OC(CC(=O)OCC2=CC=CC=C2)(CC=O)OC1 | C14H16O5
